US07514448B2
4-[1-(Toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-thiophen-2-ylamine
tert-Butyl 4-(1-tosyl-1H-pyrrolo[2,3-b]pyridin-3-yl)thiophen-2-ylcarbamate (120 mg, 0.26 mmol) was dissolved in 2 mL CH2Cl2, 2 mL TFA. After 15 minutes the reaction mixture was concentrated to an oil, dissolved in EtOAc, and washed with 0.1 NaOH. The organic layer was dried to a brown oil which was used as obtained.

reactant | tert-Butyl 4-(1-tosyl-1H-pyrrolo[2,3-b]pyridin-3-yl)thiophen-2-ylcarbamate | 0.26 mmol, 120 mg | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=C(C=2C1=NC=CC2)C=2C=C(SC2)NC(OC(C)(C)C)=O | C23H23N3O4S2
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-[1-(Toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-thiophen-2-ylamine | C1(=CC=C(C=C1)S(=O)(=O)N1C=C(C=2C1=NC=CC2)C=2C=C(SC2)N)C | C18H15N3O2S2
